US04061761
4-(4-Chloro-3-sulfamoylphenyl)-3-methyl-2-(3-pyridylmethylimino)-1,3-thiazolidine-4-ol
4.7 g of 2-bromo-4'-chloro-3'-sulfamoylacetophenone and 2.7 g of 1-methyl-3-(3-pyridylmethyl)-thiourea were reacted as prescribed in Example 23, whereupon the 4-(4-chloro-3-sulfamoylphenyl)-3-methyl-2-(3-pyridylmethylimino)-1,3-thiazolidine-4-ol-hydrobromide precipitated in the form of colorless hygroscopic crystals. The substance was rapidly filtered off, introduced into 30 ml of saturated sodium bicarbonate solution while stirring and the end product was crystallized by trituration. Fair yellow crystals melting at 184° C (decomposition).

reactant | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | 4.7 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | 1-methyl-3-(3-pyridylmethyl)-thiourea | 2.7 g | CNC(=S)NCC=1C=NC=CC1 | C8H11N3S
reactant | 4-(4-chloro-3-sulfamoylphenyl)-3-methyl-2-(3-pyridylmethylimino)-1,3-thiazolidine-4-ol-hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NCC=1C=NC=CC1)C)O)S(N)(=O)=O
product | 4-(4-Chloro-3-sulfamoylphenyl)-3-methyl-2-(3-pyridylmethylimino)-1,3-thiazolidine-4-ol | ClC1=C(C=C(C=C1)C1(N(C(SC1)=NCC=1C=NC=CC1)C)O)S(N)(=O)=O | C16H17ClN4O3S2
